* C:\Users\yurra\Documents\memristive-brain\test-circuits\LTSPICE\dopamine-summation\dopamine-sum-sch.asc
XU3 N023 N021 +5 -5 N018 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R14 N018 N021 300K
R12 N023 0 10K
R10 N023 N022 100K
XU1 N025 N020 +5 -5 N013 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C1 0 N025 1µ
R1 N025 Tpre 10K
R15 N035 Tpost 10K
R3 N013 N020 10K
R11 N023 N015 100K
XU2 N024 N019 +5 -5 N022 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D1 0 N019 D
D2 P001 N024 D
R7 N022 N024 1Meg
R8 0 N024 600K
R5 P001 0 100K
C2 P001 N013 0.02µ
R6 N022 N019 20K
C3 N019 0 600n
R13 0 N021 10K
D3 N018 P002 D
R9 N023 -5 100K
XU5 N034 N029 +5 -5 N032 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D4 0 N029 D
D5 P003 N034 D
R21 N032 N034 1Meg
R22 0 N034 600K
R19 P003 0 100K
R20 N032 N029 20K
C6 N029 0 600n
C5 P003 N015 0.02µ
XU6 N033 N031 +5 -5 N027 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R28 N027 N031 300K
R26 N033 0 10K
R24 N033 N032 100K
R25 N033 N013 100K
R27 0 N031 10K
D6 N027 P004 D
R23 N033 -5 100K
R33 Inhibitor N017 30K
R31 N017 P002 15K
R32 N026 N017 15K
R4 N013 N025 1Meg
R2 N020 0 1Meg
XU4 N035 N030 +5 -5 N015 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C4 0 N035 1µ
R17 N015 N030 10K
R18 N015 N035 1Meg
R16 N030 0 1Meg
XU8 0 N017 +5 -5 Inhibitor level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R30 N026 N028 10K
XU7 0 N028 +5 -5 N026 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R29 N028 P004 10K
C7 Inhibitor N017 0.5µ
XU9 N014 N010 +5 -5 N006 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R45 N006 N010 150K
R43 N014 0 10K
R41 N014 N013 100K
R44 0 N010 10K
R40 N014 N009 100K
R39 0 N009 100K
R38 N009 -5 50K
D7 N006 Sombrero D
R48 N011 N004 120K
XU10 N012 N004 +5 -5 N011 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R46 N004 Sombrero 100K
R47 N012 Sombrero 100K
Q2 N012 N016 0 0 NPN
R51 Hebbian N005 35K
R49 N005 N011 15K
R50 0 N005 15K
XU11 0 N005 +5 -5 Hebbian level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C8 Hebbian N005 0.5µ
R71 N016 Inhibitor 1K
V1 +5 0 5
V2 0 -5 5
V3 Tpost 0 PULSE(0 3 50m 0 0 20m 118m)
V4 Tpre 0 PULSE(0 3 10m 0 0 20m 120m)
R42 N014 N015 100K
XU12 0 N001 +5 -5 N002 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU13 0 N007 +5 -5 N008 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R34 N002 N001 R=(V(mod)*100K+1m)
R35 N001 Sombrero 100K
R36 N007 Hebbian 100K
R37 N008 N007 R=((1-V(mod))*100K+1m)
XU14 0 N003 +5 -5 out level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R52 out N003 100K
R53 N003 N002 200K
R54 N003 N008 100K
V5 mod 0 PWL(0 0 5 0 35 1)
.model D D
.lib C:\Users\yurra\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\yurra\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 40 0 1000u
.lib UniversalOpamps2.sub
.backanno
.end
