* C:\Users\yurra\Documents\memristive-brain\test-circuits\LTSPICE\dopamine-summation\dopamine-sum-sch.asc
XU3 N028 N026 +5 -5 N022 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R14 N022 N026 300K
R12 N028 0 10K
R10 N028 N027 100K
XU1 N030 N024 +5 -5 N013 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C1 0 N030 1µ
R1 N030 Tpre 10K
R15 N042 Tpost 10K
R3 N013 N024 10K
R11 N028 N015 100K
XU2 N029 N023 +5 -5 N027 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D1 0 N023 D
D2 P001 N029 D
R7 N027 N029 1Meg
R8 0 N029 600K
R5 P001 0 100K
C2 P001 N013 0.02µ
R6 N027 N023 20K
C3 N023 0 600n
R13 0 N026 10K
D3 N022 P002 D
R9 N028 -5 100K
XU5 N041 N036 +5 -5 N039 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D4 0 N036 D
D5 P003 N041 D
R21 N039 N041 1Meg
R22 0 N041 600K
R19 P003 0 100K
R20 N039 N036 20K
C6 N036 0 600n
C5 P003 N015 0.02µ
XU6 N040 N038 +5 -5 N034 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R28 N034 N038 300K
R26 N040 0 10K
R24 N040 N039 100K
R25 N040 N013 100K
R27 0 N038 10K
D6 N034 P004 D
R23 N040 -5 100K
R33 Inhibitor N021 30K
R31 N021 P002 15K
R32 N033 N021 15K
R4 N013 N030 1Meg
R2 N024 0 1Meg
XU4 N042 N037 +5 -5 N015 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C4 0 N042 1µ
R17 N015 N037 10K
R18 N015 N042 1Meg
R16 N037 0 1Meg
XU8 0 N021 +5 -5 Inhibitor level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R30 N033 N035 10K
XU7 0 N035 +5 -5 N033 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R29 N035 P004 10K
C7 Inhibitor N021 0.5µ
XU9 N014 N010 +5 -5 N006 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R45 N006 N010 150K
R43 N014 0 10K
R41 N014 N013 100K
R44 0 N010 10K
R40 N014 N009 100K
R39 0 N009 100K
R38 N009 -5 50K
D7 N006 Sombrero D
R48 N011 N004 120K
XU10 N012 N004 +5 -5 N011 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R46 N004 Sombrero 100K
R47 N012 Sombrero 100K
Q2 N012 N016 0 0 NPN
R51 Hebbian N005 35K
R49 N005 N011 15K
R50 0 N005 15K
XU11 0 N005 +5 -5 Hebbian level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C8 Hebbian N005 0.5µ
R71 N016 Inhibitor 1K
V1 +5 0 5
V2 0 -5 5
V3 Tpost 0 PULSE(0 3 50m 0 0 20m 118m)
V4 Tpre 0 PULSE(0 3 10m 0 0 20m 120m)
R42 N014 N015 100K
XU12 0 N001 +5 -5 N002 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU13 0 N007 +5 -5 N008 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R34 N002 N001 R=((1-V(mod))*100K+1m)
R35 N001 Sombrero 100K
R36 N007 Hebbian 100K
R37 N008 N007 R=(V(mod)*100K+1m)
XU14 0 N003 +5 -5 out level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R52 out N003 100K
R53 N003 N002 200K
R54 N003 N008 100K
V5 mod 0 PWL file=test1.txt
XU15 0 N019 +5 -5 N020 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU16 0 N031 +5 -5 N032 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R55 N020 N019 R=((1-V(mod2))*100K+1m)
R56 N019 N018 100K
R57 N031 Hebbian 100K
R58 N032 N031 R=(V(mod2)*100K+1m)
XU17 0 N025 +5 -5 out2 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R59 out2 N025 100K
R60 N025 N020 200K
R61 N025 N032 100K
V6 mod2 0 PWL file=test1.txt
XU18 0 N017 +5 -5 N018 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R62 N018 N017 100K
R63 N017 Sombrero 100K
.model D D
.lib C:\Users\yurra\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\yurra\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 40 0 1000u
.lib UniversalOpamps2.sub
.backanno
.end
